US04113731
7-Methylindolo[2,3-c]isoquinolin-5(6H)-one
The same product as in the foregoing example is prepared by heating to 270°-280° C. for 15 minutes 2.59 g (0.01 mole) of 2-amino-1-methyl-3-phenylindole hydrochloride and 3.24 g (0.04 mole) of KOCN in 25 ml of vaseline oil. The reaction mass is taken up with hexane and the insoluble parts, collected by filtration under vacuum, are washed with water in order to remove inorganic salts and crystallized from dimethylformamide, yielding 0.5 g of the pure desired product.

reactant | 2-amino-1-methyl-3-phenylindole hydrochloride | 0.01 mole, 2.59 g | Cl.NC=1N(C2=CC=CC=C2C1C1=CC=CC=C1)C
reactant | KOCN | 0.04 mole, 3.24 g | O([K])C#N
solvent | hexane | CCCCCC | C6H14
product | 7-Methylindolo[2,3-c]isoquinolin-5(6H)-one | 0.5 g | CN1C=2C=CC=CC2C2=C1NC(C1=CC=CC=C21)=O | C16H12N2O
